2195-12-25 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   tolerated face mask well overnight
 NON-INVASIVE VENTILATION - START [**2195-12-24**] 03:37 PM
 ARTERIAL LINE - START [**2195-12-24**] 06:33 PM
 NON-INVASIVE VENTILATION - STOP [**2195-12-24**] 06:57 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-12-24**] 07:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2195-12-24**] 06:59 PM
   Heparin Sodium (Prophylaxis) - [**2195-12-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-12-25**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 92 (82 - 114) bpm
   BP: 124/60(77) {100/50(61) - 141/84(89)} mmHg
   RR: 24 (20 - 35) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    963 mL
                                                                    489 mL
   PO:
             TF:
   IVF:
                                                                    963 mL
                                                                    489 mL
   Blood products:
   Total out:
                                                                    525 mL
                                                                    225 mL
   Urine:
                                                                    525 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    438 mL
                                                                    264 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 260 (260 - 434) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 93%
   ABG: 7.24/71/67/32/0
   Ve: 6.5 L/min
   PaO2 / FiO2: 134
   Physical Examination
   General Appearance: Thin,
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Rhonchorous: ) though improved from yesterday
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Follows simple commands
   Labs / Radiology
   205 K/uL
   11.0 g/dL
   143 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.1 mEq/L
   25 mg/dL
   103 mEq/L
   142 mEq/L
   33.5 %
   2.7 K/uL
        [image002.jpg]
                             [**2195-12-24**]  07:12 PM
                             [**2195-12-25**]  12:21 AM
                             [**2195-12-25**]  03:25 AM
                             [**2195-12-25**]  03:37 AM
   WBC
   2.7
   Hct
   33.5
   Plt
   205
   Cr
   1.1
   TCO2
   30
   32
   32
   Glucose
   127
   143
   Other labs: PT / PTT / INR:36.8/50.2/3.9, Differential-Neuts:82.5 %,
   Lymph:15.7 %, Mono:1.3 %, Eos:0.4 %, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
   Assessment and Plan: [**Age over 90 **] y/o F with PMHx of COPD on home O2, Diastolic
   CHF who presents with sob and hypoxia likely due to copd exacerbation
   unable to wean from bipap.
   .
   # Hypoxia: CXR showed potentially improved aeration, but difficult to
   asses given position, could represent pneumona vs, COPD exacerbation.
   Other possibilities include contribution from DHF.
   - Change solumedrol to 80 mg Q8hours
   - continue Alb/Atrovent nebs q4hrs standing
   - change antibiotics to vanc/levo
   - f/u sputum
   -get urine legionella
   - follow up CBC
   -maintain oxygen 88-92 % sat
   .
   # Diastolic Heart Failure:Long standing
   - continue Toprol 50mg daily
   - check BNP, if markedly elevated continue lasix 80 mg IV BID
   - daily weights, strict i/os
   - f/u PM lytes
   .
   # Atrial Fibrillation: currently rate controlled and anticoagulated
   with coumadin
   - continue Toprol 50mg daily
   - HOld Coumadin, f/u INR
   .
   # ARF: baseline 0.9, today 1.2
   - will gently hydrate (already received 1LNS in ED) and recheck in AM,
   if no improvement would obtain lytes
   - would not hold lasix at this point and just monitor
   - will hold acetazolamide for now
   .
   FEN: Reg, heart health diet
   Access: [**Last Name (LF) 3173**], [**First Name3 (LF) **] line
   Prophy, coumadin
   Code: DNR/DNI
   # Communication: Patient
   daughter: [**Name (NI) 153**] [**Numeric Identifier 5408**]; [**Last Name (un) 5409**]
   [**Telephone/Fax (5) 5410**]
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-12-24**] 01:04 PM
   Arterial Line - [**2195-12-24**] 06:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2195-12-28 06:49:00 Physician Resident Progress Note
Chief Complaint:
   I
m thirsty
   24 Hour Events:
   -Metoprolol increased 37.5 mg, but still not rate controlled, started
   IV diltiazem, then started on dilt drip to get better rate control,
   d/c'd albuterol nebs
   -Diuresis-2 L negative for day, appeared dry, held lasix 120 at
   midnight to reconsider in AM
   -Steroids decreased
   -ABG-hypercarbic to 90, deferred on NRB given mucus plugging
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2195-12-25**] 11:51 AM
   Levofloxacin - [**2195-12-26**] 02:10 PM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Metoprolol - [**2195-12-27**] 05:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-12-28**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36
C (96.8
   HR: 99 (87 - 134) bpm
   BP: 109/53(66) {90/48(57) - 122/90(114)} mmHg
   RR: 23 (16 - 29) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    415 mL
                                                                    367 mL
   PO:
                                                                     75 mL
                                                                    225 mL
   TF:
   IVF:
                                                                    340 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  1,980 mL
                                                                    270 mL
   Urine:
                                                                  1,980 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,565 mL
                                                                     97 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   PS : 12 cmH2O
   RR (Spontaneous): 44
   PEEP: 5 cmH2O
   FiO2: 60%
   SpO2: 92%
   ABG: 7.25/92.[**Numeric Identifier 132**]/81.[**Numeric Identifier 218**]/42/9
   Ve: 3.9 L/min
   PaO2 / FiO2: 231
   Physical Examination
   General: Awake, answering questions,  BiPap mask in place
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: rhonchi throughout no wheezes this morning, no crackles
   CV: irregular, fast S1 & S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ radial pulses, cool feet with 1+ DP/PT
   pulses, no clubbing, cyanosis or edema
   Neuro:  alert and awake, not oriented, no focal deficits, generalized
   weakness but moving all 4 limbs
   Labs / Radiology
   176 K/uL
   10.3 g/dL
   187 mg/dL
   1.1 mg/dL
   42 mEq/L
   4.4 mEq/L
   44 mg/dL
   101 mEq/L
   145 mEq/L
   31.9 %
   4.2 K/uL
        [image002.jpg]
                             [**2195-12-25**]  05:20 PM
                             [**2195-12-26**]  04:00 AM
                             [**2195-12-26**]  06:11 AM
                             [**2195-12-26**]  03:08 PM
                             [**2195-12-27**]  02:39 AM
                             [**2195-12-27**]  03:57 PM
                             [**2195-12-27**]  06:02 PM
                             [**2195-12-27**]  07:40 PM
                             [**2195-12-28**]  03:30 AM
                             [**2195-12-28**]  04:45 AM
   WBC
   2.7
   5.9
   3.9
   4.8
   4.2
   Hct
   31.9
   34.8
   31.9
   32.1
   31.9
   Plt
   190
   198
   189
   194
   176
   Cr
   1.1
   1.2
   1.2
   1.3
   1.4
   1.2
   1.1
   TCO2
   38
   43
   43
   Glucose
   188
   149
   165
   148
   173
   188
   187
   Other labs: PT / PTT / INR:21.1/27.2/2.0, Differential-Neuts:82.5 %,
   Lymph:15.7 %, Mono:1.3 %, Eos:0.4 %, Lactic Acid:1.8 mmol/L, Ca++:8.8
   mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o F with PMHx of COPD on home O2, Diastolic CHF who presents with
   sob and hypoxia likely due to COPD exacerbation unable to wean from
   BIPAP.
   # Hypoxia: CXR showed potentially improved aeration, but difficult to
   asses given position, could represent pneumona vs, COPD exacerbation.
   Other possibilities include contribution from DHF.  Has not required
   bipap or NRB over last day, is on 50% facemask.  Holding steady on
   course of steroids, abx and nebs.
   - Continuing lower dose solumedrol to 20 mg Q8hours
   - continue Alb/Atrovent nebs q4hrs standing
   - continue levo
   - f/u sputum
   - maintain oxygen 88-92 % sat
   - lasix 120 per below
   # Diastolic and systolic Heart Failure:Long standing
   - metoprolol stopped and changed to diltiazem for better afib rate
   control
   - Lasix 120mg IV bid with UOP/PM lyte-titrate to 1-2 L negative, was
   1.5 L negative yesterday
   - daily weights, strict i/os although is complaining of thirst a lot
   and can loosen fluid restriction
   - PM lytes
   # Atrial Fibrillation: currently poorly rate controlled and
   anticoagulated with coumadin
   - put on dilt gtt overnight due to RVR, controlled with HRs in the 80s
   today
   - transition to PO dilt, titrate as needed, metoprolol can be added on
   as well
   # Coagulopathy: INR increased to 4.9 [**12-26**] due to levo/coumadin
   interaction, dose changed INR 2.0 today
   -          Trend, transfuse FFP for bleeding or procedures
   -          Continue levofloxacin
   -          Coumadin still being held, will monitor INR and restart as
   needed.
   # ARF: baseline 0.9, high of 1.3, now at 1.1
   - Lasix as above, follow creatinine, is improving
   #FEN: Reg, heart health diet
   #Access: PIV
   #Prophy, coumadin
   #Code: DNR/DNI
   # Communication: Patient
   Daughter: [**Doctor First Name 153**] [**Numeric Identifier 5408**]; [**Last Name (un) 5409**]
   [**Telephone/Fax (5) 5410**]
   Dispo: MICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-12-24**] 01:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2195-12-29 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**12-28**] Events:
   - neg 587cc yesterday
   - on dilt gtt 15mg/hr for rate control
   - discussed w/ son goals of care
   No new culture data or imaging.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2195-12-28**] 06:24 PM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2195-12-29**] 02:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-12-29**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 93 (78 - 100) bpm
   BP: 117/62(72) {98/38(52) - 124/72(82)} mmHg
   RR: 23 (20 - 34) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,396 mL
                                                                    383 mL
   PO:
                                                                    745 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    651 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  1,983 mL
                                                                  1,580 mL
   Urine:
                                                                  1,983 mL
                                                                  1,580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -587 mL
                                                                 -1,197 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///44/
   Physical Examination
   General: Awake, answering questions,  BiPap mask in place
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: rhonchi throughout no wheezes this morning, no crackles
   CV: irregular, fast S1 & S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ radial pulses, cool feet with 1+ DP/PT
   pulses, no clubbing, cyanosis or edema
   Neuro:  alert and awake, not oriented, no focal deficits, generalized
   weakness but moving all 4 limbs
   Labs / Radiology
   174 K/uL
   10.2 g/dL
   136 mg/dL
   0.9 mg/dL
   44 mEq/L
   3.9 mEq/L
   32 mg/dL
   89 mEq/L
   137 mEq/L
   30.0 %
   4.4 K/uL
        [image002.jpg]
                             [**2195-12-26**]  04:00 AM
                             [**2195-12-26**]  06:11 AM
                             [**2195-12-26**]  03:08 PM
                             [**2195-12-27**]  02:39 AM
                             [**2195-12-27**]  03:57 PM
                             [**2195-12-27**]  06:02 PM
                             [**2195-12-27**]  07:40 PM
                             [**2195-12-28**]  03:30 AM
                             [**2195-12-28**]  04:45 AM
                             [**2195-12-29**]  03:15 AM
   WBC
   5.9
   3.9
   4.8
   4.2
   4.4
   Hct
   34.8
   31.9
   32.1
   31.9
   30.0
   Plt
   198
   189
   194
   176
   174
   Cr
   1.2
   1.2
   1.3
   1.4
   1.2
   1.1
   0.9
   TCO2
   38
   43
   43
   Glucose
   149
   165
   148
   173
   188
   187
   136
   Other labs: PT / PTT / INR:19.3/26.5/1.8, Differential-Neuts:82.5 %,
   Lymph:15.7 %, Mono:1.3 %, Eos:0.4 %, Lactic Acid:1.8 mmol/L, Ca++:8.7
   mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o F with PMHx of COPD on home O2, Diastolic CHF who presents with
   sob and hypoxia likely due to COPD exacerbation.
   # Hypoxia: CXR showed potentially improved aeration, but difficult to
   asses given position, could represent pneumona vs, COPD exacerbation.
   Has not required bipap or NRB over last day, is on 50% facemask.
   Patient was discharged with this oxygen requirement two months ago.
   Restrictive physiology [**12-28**] kyphosis. Does not look like pulmonary
   edema.
   - tapering steroids to Prednisone 40mg PO daily
   - continue Alb/Atrovent nebs q4hrs standing
   - discontinued levo
   - f/u sputum
   - maintain oxygen 88-92 % sat
   - holding Lasix
   .
   # Contraction Alkalosis
   - holding Lasix
   - may consider restarting home dose Lasix tomorrow
   .
   # Diastolic and systolic Heart Failure:Long standing
   - metoprolol stopped and changed to diltiazem for better afib rate
   control
   - holding lasix because of contraction alkalosis
   - allowing patient to take PO, OJ, to make up for vol contraction
   - daily weights, strict i/os although is complaining of thirst a lot
   and can loosen fluid restriction
   - PM lytes
   .
   # Atrial Fibrillation: currently poorly rate controlled and
   anticoagulated with coumadin
   - put on dilt gtt overnight due to RVR, controlled with HRs in the 80s
   today
   - transition to PO dilt, titrate as needed, metoprolol can be added on
   as well
   .
   # Coagulopathy: INR increased to 4.9 [**12-26**] due to levo/coumadin
   interaction, dose changed INR 2.0 today
   -          Trend, transfuse FFP for bleeding or procedures
   -          Coumadin restarting low dose, 1mg PO daily.
   .
   # ARF: baseline 0.9, high of 1.3, now at 1.1
   - Lasix as above, follow creatinine, is improving
   #FEN: Reg, heart health diet
   #Access: PIV
   #Prophy, coumadin
   #Code: DNR/DNI
   # Communication: Patient
   Daughter: [**Doctor First Name 153**] [**Numeric Identifier 5408**]; [**Last Name (un) 5409**]
   [**Telephone/Fax (5) 5410**]
   Dispo: MICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-12-28**] 07:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2195-12-30 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - patient was given 2x NS 250cc bolus with some improvement in the
   tachycardia, patient was given two doses of Diltizem 30mg PO, however
   Dilt drip was still continued
   - phos repleted
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2195-12-28**] 06:24 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-12-30**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.3
   HR: 107 (88 - 114) bpm
   BP: 126/60(80) {101/52(65) - 132/81(88)} mmHg
   RR: 28 (21 - 35) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,404 mL
                                                                    300 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    804 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  3,470 mL
                                                                    235 mL
   Urine:
                                                                  3,470 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,066 mL
                                                                     65 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///45/
   Physical Examination
   General: Awake, answering questions,  facemask in place
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: rhonchi throughout no wheezes this morning, no crackles
   CV: irregular, fast S1 & S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ radial pulses, cool feet with 1+ DP/PT
   pulses, no clubbing, cyanosis or edema
   Neuro:  alert and awake, not oriented, no focal deficits, generalized
   weakness but moving all 4 limbs
   Labs / Radiology
   189 K/uL
   11.6 g/dL
   111 mg/dL
   1.0 mg/dL
   45 mEq/L
   6.7 mEq/L
   29 mg/dL
   87 mEq/L
   135 mEq/L
   33.6 %
   7.0 K/uL
        [image002.jpg]
                             [**2195-12-26**]  03:08 PM
                             [**2195-12-27**]  02:39 AM
                             [**2195-12-27**]  03:57 PM
                             [**2195-12-27**]  06:02 PM
                             [**2195-12-27**]  07:40 PM
                             [**2195-12-28**]  03:30 AM
                             [**2195-12-28**]  04:45 AM
                             [**2195-12-29**]  03:15 AM
                             [**2195-12-29**]  04:29 PM
                             [**2195-12-30**]  04:12 AM
   WBC
   3.9
   4.8
   4.2
   4.4
   7.0
   Hct
   31.9
   32.1
   31.9
   30.0
   33.6
   Plt
   189
   194
   176
   174
   189
   Cr
   1.2
   1.3
   1.4
   1.2
   1.1
   0.9
   1.0
   1.0
   TCO2
   43
   43
   Glucose
   165
   148
   173
   188
   187
   136
   245
   111
   Other labs: PT / PTT / INR:19.2/26.7/1.8, Differential-Neuts:82.5 %,
   Lymph:15.7 %, Mono:1.3 %, Eos:0.4 %, Lactic Acid:1.8 mmol/L, Ca++:8.7
   mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o F with PMHx of COPD on home O2, Diastolic CHF who presents with
   sob and hypoxia likely due to COPD exacerbation.
   # Hypoxia: CXR showed potentially improved aeration, but difficult to
   asses given position, could represent pneumona vs, COPD exacerbation.
   Has not required bipap or NRB over last day, is on 50% facemask.
   Patient was discharged with this oxygen requirement two months ago.
   Restrictive physiology [**12-28**] kyphosis. Does not look like pulmonary
   edema.
   - tapering steroids to Prednisone 40mg PO daily
   - continue Alb/Atrovent nebs q4hrs standing
   - discontinued levo
   - f/u sputum
   - maintain oxygen 88-92 % sat
   - holding Lasix
   .
   # Contraction Alkalosis
   - holding Lasix
   - may consider restarting home dose Lasix tomorrow
   .
   # Diastolic and systolic Heart Failure:Long standing
   - metoprolol stopped and changed to diltiazem for better afib rate
   control
   - holding lasix because of contraction alkalosis
   - allowing patient to take PO, OJ, to make up for vol contraction
   - daily weights, strict i/os although is complaining of thirst a lot
   and can loosen fluid restriction
   - PM lytes
   .
   # Atrial Fibrillation: currently poorly rate controlled and
   anticoagulated with coumadin
   - put on dilt gtt overnight due to RVR, controlled with HRs in the 80s
   today
   - transition to PO dilt, titrate as needed, metoprolol can be added on
   as well
   .
   # Coagulopathy: INR increased to 4.9 [**12-26**] due to levo/coumadin
   interaction, dose changed INR 2.0 today
   -          Trend, transfuse FFP for bleeding or procedures
   -          Coumadin restarting low dose, 1mg PO daily.
   .
   # ARF: baseline 0.9, high of 1.3, now at 1.1
   - Lasix as above, follow creatinine, is improving
   #FEN: Reg, heart health diet
   #Access: PIV
   #Prophy, coumadin
   #Code: DNR/DNI
   # Communication: Patient
   Daughter: [**Doctor First Name 153**] [**Numeric Identifier 5408**]; [**Last Name (un) 5409**]
   [**Telephone/Fax (5) 5410**]
   Dispo: MICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-12-28**] 07:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: